US07795249B2
To a solution of ethyl 5-pyridin-2-yl-2-furoate (2.00 g, 9.21 mmol) in EtOH (10 mL) was added NaOH (0.74 g) in water. The reaction mixture was allowed to stir at rt for 1 h and then concentrated. The residue was diluted with 1M HCl to pH 3-4. A precipitate formed and was collected by filtration and identified as 5-pyridin-2-yl-2-furoic acid (0.41 g). The aqueous solution was extracted with EtOAc. The organic solutions were combined, washed with brine, dried over MgSO4, filtered and concentrated to give additional 5-pyridin-2-yl-2-furoic acid (0.57 g). LCMS: (FA) ES+ 190.

reactant | ethyl 5-pyridin-2-yl-2-furoate | 9.21 mmol, 2.00 g | N1=C(C=CC=C1)C1=CC=C(O1)C(=O)OCC | C12H11NO3
reactant | NaOH | 0.74 g | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | O | H2O
product | 5-pyridin-2-yl-2-furoic acid | 0.57 g | N1=C(C=CC=C1)C1=CC=C(O1)C(=O)O | C10H7NO3
